US06080752
cis-1-Benzyl-1,3,3a,4,9,9a-hexahydro-2H-benz[f]indole-2-one
Acetic acid (12.5 ml) was added to a stirred mixture of 2-oxo-1,2,3,4-tetrahydronaphthalene-3-acetic acid methyl ester (3.62 g, 17 mmol), and benzylamine (7.2 ml, 66 mmol) in a 1:1 mixture of tetrahydrofuran and methanol (120 ml) at 0° C. under argon. After 0.5 h, sodium cyanoborohydride (2.09 g, 33 mmol) was added and the resultant mixture stirred at room temperature. After 16 h, aqueous 10% sodium hdyroxide was added and the solvent evaporated in vacuo. The residue was partitioned between water (100 ml) and dichloromethane (2×200 ml). The combined extracts were washed with water (100 ml), brine (100 ml), then dried (Na2SO4) and evaporated in vacuo to give a brown solid (4.38 g). Chromatography on silica using 0-5% methanol-ethyl acetate gradient elution afforded the title compound as a yellow solid (1.75 g, 38%).

reactant | 2-oxo-1,2,3,4-tetrahydronaphthalene-3-acetic acid methyl ester | 17 mmol, 3.62 g | COC(CC1C(CC2=CC=CC=C2C1)=O)=O | C13H14O3
reactant | benzylamine | 66 mmol, 7.2 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium cyanoborohydride | 33 mmol, 2.09 g | C(#N)[BH3-].[Na+]
reactant | sodium | [Na] | Na
solvent | methanol | 120 ml | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | Acetic acid | 12.5 ml | C(C)(=O)O | C2H4O2
product | cis-1-Benzyl-1,3,3a,4,9,9a-hexahydro-2H-benz[f]indole-2-one | 4.38 g | C(C1=CC=CC=C1)N1C(C[C@@H]2CC3=C(C[C@H]12)C=CC=C3)=O | C19H19NO
